* Z:\celera\projects\Simplis\playjoseph\PUGET0\301d\verification\sim_REGULATIONgmv.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

*BrickToolsVersion:0.121  projname:REGULATIONgmv
.node_map SIMPV 20
.node_map GMVselect$0 16
.node_map GMVselect$1 17
.node_map GMVselect$2 18
.node_map GMVselect$3 19
.node_map enable_gmv 24
.node_map REF_CAPACITORGOOD 23
.node_map REF_GMV 22
.node_map clock_regulation 26
.node_map ok_gmv 25
.node_map GND 28
.node_map kelvin_GNDregulation 27
.node_map VREF 21
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 100.0u  0
.globalvar REF=1.2
.globalvar TEMP=25
.globalvar VIN=5
.globalvar tdext_khz=1000
.globalvar  celera_i2c_frequency_KHz=100


X$REGULATIONgmv 20 21 25 22 24 26 27 16 17 18 19 23 REGULATIONgmv
X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playjoseph\PUGET0\301d\verification\FORCE_REGULATIONgmv.sxcmp


** From Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301D\design\REGULATIONgmv.sxcmp
.subckt REGULATIONgmv 49 52 55 50 51 53 56 33 34 35 36 54
*#hierarchy
.node_map SIMPV 49
.node_map GMVselect$0 33
.node_map GMVselect$1 34
.node_map REFBUF 58
.node_map GMVselect$2 35
.node_map GMVselect$3 36
.node_map GMVselect$4 37
.node_map GMVselect$5 38
.node_map GMVselect$6 39
.node_map GMVselect$10 43
.node_map GMVselect$7 40
.node_map GMVselect$11 44
.node_map GMVselect$8 41
.node_map GMVselect$12 45
.node_map GMVselect$9 42
.node_map GMVselect$13 46
.node_map GMVselect$14 47
.node_map GMVselect$15 48
.node_map enable_gmv 51
.node_map REF_CAPACITORGOOD 54
.node_map REF_GMV 50
.node_map clock_regulation 53
.node_map ok_gmv 55
.node_map kelvin_GNDregulation 56
.node_map hijack_enable_gmv 57
.node_map VREF 52
X$DEBUG 51 57 52 55 33 34 35 36 58 REGULATIONgmvDEBUG
X$GMV 49 52 50 55 57 53 33 34 35 36 56 58 54 REGULATIONgmvMAIN
X$pinprobe1 52 pinprobe vars: pinprobe_description='GMV_regulation_reference' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe2 56 pinprobe vars: pinprobe_description='REGULATION_kelvin_ground' pinprobe_mode='input' pinprobe_input='kelvin' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe3 55 pinprobe vars: pinprobe_description='GMV_enabled_and_ready' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe4 33 34 35 36 37 38 39 40 41 42 43 44 45 46 47 48 pinprobeBUS vars: pinprobe_description='GMV_Regulation_code' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd' pinprobe_bits=4
X$pinprobe5 51 pinprobe vars: pinprobe_description='enable_GMV' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe6 54 pinprobe vars: pinprobe_description='CAPACITORGODO_refernce_based_on_GMVselect' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$U1 49 pinprobe vars: pinprobe_description='Low_voltage_input_supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U2 32 brick vars: ibias=0 drm=0 dft=0 global=0 brick=0 revision=0 description='text' description1='text' description2='text' description3='text' description4='text' description5='text' description6='text' description7='text' description8='text' description9='text' description10='text'
X$U23 53 pinprobe vars: pinprobe_description='Master_sync_clock_1MHZ' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
X$U8 50 pinprobe vars: pinprobe_description='Referecne_input_1.2V' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
.ends REGULATIONgmv

** From Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301D\design\REGULATIONgmvDEBUG.sxcmp
.subckt REGULATIONgmvDEBUG 35 36 37 38 19 20 21 22 39
*#hierarchy
.node_map GMVselect$0 19
.node_map GMVselect$1 20
.node_map REFBUF 39
.node_map GMVselect$2 21
.node_map GMVselect$3 22
.node_map GMVselect$4 23
.node_map GMVselect$5 24
.node_map GMVselect$6 25
.node_map GMVselect$10 29
.node_map GMVselect$7 26
.node_map GMVselect$11 30
.node_map GMVselect$8 27
.node_map GMVselect$12 31
.node_map GMVselect$9 28
.node_map GMVselect$13 32
.node_map GMVselect$14 33
.node_map GMVselect$15 34
.node_map enable_gmv 35
.node_map ok_gmv 38
.node_map hijack_enable_gmv 36
.node_map VREF 37
X$dfthijack1 35 36 dfthijack vars: dfthijack_name='REGULATIONgmvENABLE' dfthijack_description='Hiajck_enable_input' dfthijack_enable='bypass' dfthijack_enabletimeunits1='us' dfthijack_enabletimeunits2='us' dfthijack_enabletimeunits3='us' dfthijack_enabletimeunits4='us' dfthijack_enabletimeunits5='us' dfthijack_enabletimeunits6='us' dfthijack_enabletimeunits7='us' dfthijack_enabletimeunits8='us' dfthijack_state='logic' dfthijack_output='0' dfthijack_timeenablecodes=1 dfthijack_startcode=0 dfthijack_newcode1=1 dfthijack_enabletime1=1 dfthijack_newcode2=1 dfthijack_enabletime2=1 dfthijack_newcode3=1 dfthijack_enabletime3=1 dfthijack_newcode4=1 dfthijack_enabletime4=1 dfthijack_newcode5=1 dfthijack_enabletime5=1 dfthijack_newcode6=1 dfthijack_enabletime6=1 dfthijack_newcode7=1 dfthijack_enabletime7=1 dfthijack_newcode8=1 dfthijack_enabletime8=1 dfthijack_vmax=6 dfthijack_comment=1
X$dftstatus1 19 20 21 22 23 24 25 26 27 28 29 30 31 32 33 34 dftstatusModel0 vars: dftstatus_name='REGULATIONgmv' dftstatus_enable='0' dftstatus_bits=4 dftstatus_vmax=6
X$pinprobe1 36 pinprobe vars: pinprobe_description='Hijack_enable_regulation' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe12 19 20 21 22 23 24 25 26 27 28 29 30 31 32 33 34 pinprobeBUS vars: pinprobe_description='GMV_Regulation_code' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=4
X$pinprobe2 37 pinprobe vars: pinprobe_description='GMV_regulation_output_reference' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe3 38 pinprobe vars: pinprobe_description='GMV_enabled_and_ready' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe4 35 pinprobe vars: pinprobe_description='enable_GMV_reference' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe5 39 pinprobe vars: pinprobe_description='GMV_reference_input' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$U1 36 38 18 VESPAdftpulse
X$UREGULATIONgmvREF 39 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='REGULATIONgmvREF' dftprobe_description='Measure_GMV_reference_input' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UREGULATIONgmvSTARTUP 18 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='REGULATIONgmvSTARTUP' dftprobe_description='Measure_GMV_startup_time' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UREGULATIONgmvVREF 37 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='REGULATIONgmvVREF' dftprobe_description='Measure_GMV_VREF' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
.ends REGULATIONgmvDEBUG

** From Z:\celera\simplis\LIB\VESPA\VESPAdftpulse.sxcmp
.subckt VESPAdftpulse 7 8 9
*#hierarchy
.node_map start 7
.node_map stop 8
.node_map pulse 9
X$U11 7 pinprobe vars: pinprobe_description='DFT_timer_start_input'
X$U15 8 6 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U17 8 pinprobe vars: pinprobe_description='DFT_timer_stop_input'
X$U52 7 4 6 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U53 4 5 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U55 9 5 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U8 9 pinprobe vars: pinprobe_description='DFT_Timer_pulse'
.ends VESPAdftpulse

** From Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301D\design\REGULATIONgmvMAIN.sxcmp
.subckt REGULATIONgmvMAIN 94 97 95 100 96 98 70 71 72 73 101 93 99
*#hierarchy
.node_map SIMPV 94
.node_map BUS1$0 86
.node_map BUS1$1 87
.node_map BUS1$2 88
.node_map DAC 103
.node_map BUS2$0 89
.node_map BUS2$1 90
.node_map BUS3$0 91
.node_map BUS3$1 92
.node_map GMVselect$0 70
.node_map GMVselect$1 71
.node_map REFBUF 93
.node_map GMVselect$2 72
.node_map GMVselect$3 73
.node_map GMVselect$4 74
.node_map GMVselect$5 75
.node_map GMVselect$6 76
.node_map GMVselect$10 80
.node_map GMVselect$7 77
.node_map GMVselect$11 81
.node_map GMVselect$8 78
.node_map GMVselect$12 82
.node_map GMVselect$9 79
.node_map GMVselect$13 83
.node_map GMVselect$14 84
.node_map GMVselect$15 85
.node_map ok_dac 104
.node_map clock 107
.node_map enable_gmv 96
.node_map ok_buffer 102
.node_map REF_CAPACITORGOOD 99
.node_map REF_GMV 95
.node_map okDELAY 109
.node_map RFB 106
.node_map clock_regulation 98
.node_map ok 108
.node_map ok_measure 105
.node_map ok_gmv 100
.node_map kelvin_GNDregulation 101
.node_map VREF 97
C1 93 0 1p IC=0
X$dac1 94 93 106 70 71 72 73 74 75 76 77 78 79 80 81 103 96 104 105 celeradacladder vars: dac_type='ladder' dac_flash_fullscale='input' dac_tracking_fullscale='input' dac_dualslope_fullscale='input' dac_sigmadelta_fullscale='input' dac_control='pin' dac_control_por2='0' dac_control_por1='0' dac_control_por0='0' dac_name='text' dac_description='text' dac_units='text' dac_enable_control='pin' dac_strobe_control='pin' dac_buffer='yes' dac_mode='unsigned' dac_lowpower='no' dac_ref='local' dac_fullscale='input' dac_gndsense='yes' dac_accuracy='yes' dac_trim_name='GMVaccuracy' dac_trim_description='Voltage_regulation_accuracy' dac_dft='no' dac_ladder_impedance=200 dac_r2r_impedance=500 dac_flash_impedance=200 dac_tracking_impedance=200 dac_dualslope_frequency=1 dac_sigmadelta_impedance=200 dac_bits=4 dac_2=0 dac_offset=0 dac_lsb=0 dac_enable_por=0 dac_strobe_por=0 dac_filter=10 dac_1=0 dac_vmax=6
X$delay1 105 109 107 91 92 69 delayclock vars: delay_type='clock' delay_units='ns' delay_accuracy='no' delay_accuracy_name='text' delay_accuracy_description='text' delay_edge='rise' delay_dft='no' delaycontrol_type='register' delaycontrol_name='text' delaycontrol_description='text' delaycontrol_units0='ns' delaycontrol_units1='ns' delaycontrol_units2='ns' delaycontrol_units3='ns' delaycontrol_units4='ns' delaycontrol_units5='ns' delaycontrol_units6='ns' delaycontrol_units7='ns' delayclock_control='pin' delayclock_datasheetname='text' delayclock_datasheetdescription='text' delayclock_accuracy='no' delayclock_accuracyname='text' delayclock_accuracydescription='text' delay_time=50 delay_0=0 delay_vmax=6 delaycontrol_outputs=2 delaycontrol_por=0 delaycontrol_time0=5 delaycontrol_time1=10 delaycontrol_time2=25 delaycontrol_time3=50 delaycontrol_time4=100 delaycontrol_time5=250 delaycontrol_time6=500 delaycontrol_time7=999 delayclock_options=1 delayclock_por=0 delayclock_count0=15 delayclock_count1=4 delayclock_count2=8 delayclock_count3=16 delayclock_0=0 delayclock_freq=1000
X$delay2 108 105 107 89 90 68 delayclock vars: delay_type='clock' delay_units='ns' delay_accuracy='no' delay_accuracy_name='text' delay_accuracy_description='text' delay_edge='rise' delay_dft='no' delaycontrol_type='register' delaycontrol_name='text' delaycontrol_description='text' delaycontrol_units0='ns' delaycontrol_units1='ns' delaycontrol_units2='ns' delaycontrol_units3='ns' delaycontrol_units4='ns' delaycontrol_units5='ns' delaycontrol_units6='ns' delaycontrol_units7='ns' delayclock_control='pin' delayclock_datasheetname='text' delayclock_datasheetdescription='text' delayclock_accuracy='no' delayclock_accuracyname='text' delayclock_accuracydescription='text' delay_time=50 delay_0=0 delay_vmax=6 delaycontrol_outputs=2 delaycontrol_por=0 delaycontrol_time0=5 delaycontrol_time1=10 delaycontrol_time2=25 delaycontrol_time3=50 delaycontrol_time4=100 delaycontrol_time5=250 delaycontrol_time6=500 delaycontrol_time7=999 delayclock_options=1 delayclock_por=0 delayclock_count0=10 delayclock_count1=4 delayclock_count2=8 delayclock_count3=16 delayclock_0=0 delayclock_freq=1000
X$pinprobe1 97 pinprobe vars: pinprobe_description='GMV_regulation_reference' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe2 101 pinprobe vars: pinprobe_description='REGULATION_kelvin_ground' pinprobe_mode='input' pinprobe_input='kelvin' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe3 100 pinprobe vars: pinprobe_description='GMV_enabled_and_ready' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe4 70 71 72 73 74 75 76 77 78 79 80 81 82 83 84 85 pinprobeBUS vars: pinprobe_description='GMV_Regulation_code' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=4
X$pinprobe5 93 pinprobe vars: pinprobe_description='GMV_reference_input' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe6 99 pinprobe vars: pinprobe_description='CAPACITORGODO_refernce_based_on_GMVselect' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$resistor1 101 106 64 65 66 86 87 88 resistor vars: resistor_control='accurate_resistor' resistor_datasheet_accuracy_name='GMVoffsetAccuracy' resistor_datasheet_accuracy_description='Measure_GMV_offset_accuracy' resistor_adjust_control='factory' resistor_datasheet_adjust_name='text' resistor_datasheet_adjust_description='text' resistor_kelvin='no' resistor_type='tbd' resistor_dft='no' resistor_value=200 resistor_accurate_value=200 resistor_accurate_lsb=2 resistor_adjust0=0 resistor_adjust1=0 resistor_adjust2=0 resistor_adjust3=0 resistor_adjust4=0 resistor_adjust5=0 resistor_adjust6=0 resistor_adjust7=0 resistor_adjust_por=0 resistor_1=0 resistor_0=0 resistor_vmax=6 resistor_maximumvoltage=6 resistor_imax=1m
X$switch1 103 97 105 switchtransmission vars: switch_type='transmission' switch_polarity='noninvert' switch_model='celera' switch_ron=1K switch_pulldownvmax=6 switch_vmax=6
X$switch2 63 97 105 switchpullup vars: switch_type='pullup' switch_polarity='invert' switch_model='celera' switch_ron=1K switch_pulldownvmax=6 switch_vmax=6
X$switch3 103 99 105 switchtransmission vars: switch_type='transmission' switch_polarity='noninvert' switch_model='celera' switch_ron=1K switch_pulldownvmax=6 switch_vmax=6
X$switch4 67 99 105 switchpulldown vars: switch_type='pulldown' switch_polarity='invert' switch_model='celera' switch_ron=1K switch_pulldownvmax=6 switch_vmax=6
X$U1 94 pinprobe vars: pinprobe_description='Low_voltage_input_supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U2 104 108 102 96 VESPAasmINPUT2
X$U23 98 pinprobe vars: pinprobe_description='Master_sync_clock_1MHZ' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
X$U3 96 107 98 VESPAasmINPUT1
X$U4 100 109 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U6 96 pinprobe vars: pinprobe_description='enable_charge_clock' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
X$U7 61 brick vars: ibias=0 drm=0 dft=0 global=0 brick=0 revision=0 description='text' description1='text' description2='text' description3='text' description4='text' description5='text' description6='text' description7='text' description8='text' description9='text' description10='text'
X$U8 95 pinprobe vars: pinprobe_description='Referecne_input_1.2V' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
X$vbuffer1 94 102 95 93 96 62 vbuffer vars: vbuffer_accuracy='no' vbuffer_datasheet_name='text' vbuffer_datasheet_description='text' vbuffer_type='p' vbuffer_inputbuffer='no' vbuffer_drive='internal' vbuffer_gndsense='yes' vbuffer_dft='no' vbuffer_gain=1 vbuffer_feedbackimpedance=100 vbuffer_vmax=6
.ends REGULATIONgmvMAIN

** From Z:\celera\simplis\LIB\VESPA\VESPAasmINPUT2.sxcmp
.subckt VESPAasmINPUT2 7 8 9 6
*#hierarchy
.node_map Tstate 6
.node_map i0 7
.node_map i1 9
.node_map o 8
X$U1 6 pinprobe vars: pinprobe_description='state_blank_time'
X$U2 9 pinprobe vars: pinprobe_description='input1'
X$U3 8 pinprobe vars: pinprobe_description='INPUT1_output'
X$U4 6 9 5 7 nand3 vars: logicgate_type='nand3' logicgate_vmax=6
X$U5 5 8 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U6 7 pinprobe vars: pinprobe_description='input0'
.ends VESPAasmINPUT2

** From Z:\celera\simplis\LIB\VESPA\VESPAasmINPUT1.sxcmp
.subckt VESPAasmINPUT1 5 6 7
*#hierarchy
.node_map Tstate 5
.node_map i0 7
.node_map o 6
X$U1 5 pinprobe vars: pinprobe_description='state_blank_time'
X$U2 7 pinprobe vars: pinprobe_description='input1'
X$U3 6 pinprobe vars: pinprobe_description='INPUT1_output'
X$U4 5 4 7 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U5 4 6 inv vars: logicgate_type='inv' logicgate_vmax=6
.ends VESPAasmINPUT1

.end
